US07547710B2
To a solution of [6-(benzyloxy)-4-butyl-2-isobutylquinolin-3-yl]methanol (1.43 g, 3.8 mmol) in tetrahydrofuran (20 ml) were added triethylamine (0.64 ml, 4.6 mmol) and methanesulfonyl chloride (0.36 ml, 4.6 mmol) and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was dissolved in N,N-dimethylformamide (30 ml). Potassium phthalimide (1.41 g, 7.6 mmol) was added, and the mixture was stirred at room temperature for 6 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give 2-{[6-(benzyloxy)-4-butyl-2-isobutylquinolin-3-yl]methyl}-1H-isoindole-1,3(2H)-dione (1.81 g, yield 94%) as white crystals.

reactant | [6-(benzyloxy)-4-butyl-2-isobutylquinolin-3-yl]methanol | 3.8 mmol, 1.43 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CO)CCCC | C25H31NO2
reactant | triethylamine | 4.6 mmol, 0.64 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.6 mmol, 0.36 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Potassium phthalimide | 7.6 mmol, 1.41 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-{[6-(benzyloxy)-4-butyl-2-isobutylquinolin-3-yl]methyl}-1H-isoindole-1,3(2H)-dione | 1.81 g, yield 94% | C(C1=CC=CC=C1)OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN1C(C2=CC=CC=C2C1=O)=O)CCCC | C33H34N2O3
